US04025636
A mixture of 2-p-chlorophenyl-5-benzoxazolylglycolic acid (4 g.) and acetyl chloride (50 ml.) was heated under reflux for 24 hours. The residue on evaporation was crystallised to give pure α-acetoxy-2-chlorophenyl-5-benzoxazolylacetic acid.

reactant | 2-p-chlorophenyl-5-benzoxazolylglycolic acid | 4 g | ClC1=CC=C(C=C1)C=1OC2=C(N1)C=C(C=C2)C(C(=O)O)O | C15H10ClNO4
reactant | acetyl chloride | 50 ml | C(C)(=O)Cl | C2H3ClO
product | α-acetoxy-2-chlorophenyl-5-benzoxazolylacetic acid | C(C)(=O)OC(C(=O)O)(C=1C=CC2=C(N=CO2)C1)C1=C(C=CC=C1)Cl | C17H12ClNO5
